US08497264B2
A solution of vinylmagnesium chloride (1.6M solution in THF; 0.82 mL, 1.314 mmol) was added dropwise to a solution of 2-methoxy-7-(pyrimidin-5-yl)-9H-xanthen-9-one (200 mg, 0.657 mmol) in THF (10 mL) at −78° C. After 30 min, the reaction mixture was allowed to warm to −10° C. and was then quenched with saturated aqueous ammonium chloride. The reaction was extracted with EtOAc, and the organic phase was dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by chromatography to give 2-methoxy-7-(pyrimidin-5-yl)-9-vinyl-9H-xanthen-9-ol as a pale yellow gum.

reactant | vinylmagnesium chloride | 1.314 mmol, 1.6M, 0.82 mL | C(=C)[Mg]Cl
reactant | 2-methoxy-7-(pyrimidin-5-yl)-9H-xanthen-9-one | 0.657 mmol, 200 mg | COC1=CC=2C(C3=CC(=CC=C3OC2C=C1)C=1C=NC=NC1)=O | C18H12N2O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-methoxy-7-(pyrimidin-5-yl)-9-vinyl-9H-xanthen-9-ol | COC1=CC=2C(C3=CC(=CC=C3OC2C=C1)C=1C=NC=NC1)(O)C=C | C20H16N2O3
